US08580780B2
3-tert-Butoxycarbonylaminomethyl-6-cyclohexylmethyl-pyridine:
Dissolve 2-bromo-5-tert-butoxycarbonylaminomethyl-pyridine (500 mg, 1.74 mmol) in anhydrous THF (5 mL) in a sealed tube. Degas the solution, purge with nitrogen and add 1,1′-[bis(diphenylphosphino)ferrocene]dichloropalladium(II) (127 mg, 0.174 mmol) and 0.5 M cyclohexylmethylzinc bromide in THF (10.4 mL, 5.22 mmol). Heat the mixture at 60° C. overnight. Cool to room temperature and dilute the reaction mixture with EtOAc. Add water and filter the precipitate over Celite®. Dry the organic phase over MgSO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel eluting with hexane and hexane/EtOAc (4:1, 3:2) to give the desired intermediate as an oil (359 mg, 68%). MS (ES+) m/z: 305 (M+H)+.

reactant | 2-bromo-5-tert-butoxycarbonylaminomethyl-pyridine | 1.74 mmol, 500 mg | BrC1=NC=C(C=C1)CNC(=O)OC(C)(C)C | C11H15BrN2O2
reactant | cyclohexylmethylzinc bromide | 0.5 M | [Br-].C1(CCCCC1)C[Zn+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5.22 mmol, 10.4 mL | C1CCOC1 | C4H8O
product | 3-tert-Butoxycarbonylaminomethyl-6-cyclohexylmethyl-pyridine | 359 mg, 68% | C(C)(C)(C)OC(=O)NCC=1C=NC(=CC1)CC1CCCCC1 | C18H28N2O2
